US09314468B2
Preparation of tert-butyl 4-(5,6,7,8-tetrahydroquinolin-8-ylamino)butylcarbamate (3).
To a solution of 6,7-dihydroquinolin-8(5H)-one (2.0 g, 13.6 mmol) in ethanol (15 mL) was added concentrated acetic acid (5 drops), tert-butyl 4-aminobutylcarbamate (2.7 g, 14.3 mmol) and 4 Å molecular sieves. The reaction mixture was heated at 150° C. in microwave reactor for 10 min. The mixture was cooled to room temperature and NaBH4 (0.8 g, 20.4 mmol) was added all at once. The crude reaction mixture was absorbed onto silica gel and the product purified by silica gel chromatography (0% to 10% methanol/CH2Cl2) to afford the desired product: ESI+ MS: m/z (rel intensity) 320.2 (100, [M+H]+).

reactant | 6,7-dihydroquinolin-8(5H)-one | 13.6 mmol, 2.0 g | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | tert-butyl 4-aminobutylcarbamate | 14.3 mmol, 2.7 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
reactant | NaBH4 | 20.4 mmol, 0.8 g | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(5,6,7,8-tetrahydroquinolin-8-ylamino)butylcarbamate | N1=CC=CC=2CCCC(C12)NCCCCNC(OC(C)(C)C)=O | C18H29N3O2
